US08809380B2
Step 1. [(2R)-1-{[trans-4-(trifluoromethyl)cyclohexyl]carbonyl }pyrrolidin-2-yl]methanol
The title compound was prepared according to the procedure described in Step 1 of EXAMPLE 3 using (R)-pyrrolidin-2-ylmethanol and trans-4-(trifluoromethyl)cyclohexanecarboxylic acid instead of (R)-3-(pyrrolidin-2-ylmethoxy)picolinamide dihydrochloride and indole-2-carboxylic acid.

reactant | (R)-pyrrolidin-2-ylmethanol | N1[C@H](CCC1)CO | C5H11NO
reactant | trans-4-(trifluoromethyl)cyclohexanecarboxylic acid | FC([C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C8H11F3O2
reactant | indole-2-carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
product | [(2R)-1-{[trans-4-(trifluoromethyl)cyclohexyl]carbonyl }pyrrolidin-2-yl]methanol | FC([C@@H]1CC[C@H](CC1)C(=O)N1[C@H](CCC1)CO)(F)F | C13H20F3NO2
